US06399601B1
2-Chloro-3-methyl-4H-thieno[3,2-b]pyrrole-5-carboxylic Acid Ethyl Ester
5-Chloro-4-methyl-thiophene-2-carbaldehyde was annulated according to Procedure H (aldehyde and azido-acetic acid ethyl ester was added as ethanol solution (1 M of ester) to −20° C. ethoxide solution; allow to warm to 10° C. over 2 h, 10° C. 2 h; reaction poured into cold saturated aqueous NH4Cl; after ether extraction, acrylate organic phase washed with water until aqueous phase was neutral; solution of crude acrylate added to refluxing xylenes over 5 min and then heated at reflux).

reactant | 5-Chloro-4-methyl-thiophene-2-carbaldehyde | ClC1=C(C=C(S1)C=O)C | C6H5ClOS
reactant | azido-acetic acid ethyl ester | C(C)OC(CN=[N+]=[N-])=O | C4H7N3O2
reactant | ethoxide | [O-]CC
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ethanol | 1 M | C(C)O | C2H6O
product | 2-Chloro-3-methyl-4H-thieno[3,2-b]pyrrole-5-carboxylic Acid Ethyl Ester | C(C)OC(=O)C1=CC2=C(N1)C(=C(S2)Cl)C | C10H10ClNO2S
